* C:\Users\max19_000\Documents\GitHub\Power2LabPowerSupply\Simulations\Snupper_simulation.asc
L1 N006 N004 320µ
L2 N001 0 60µ
D1 N001 N002 1N5819
C1 N002 0 100µ
R1 N002 0 30
M1 N006 P001 0 0 BSB014N04LX3
V1 N003 0 20
V2 P001 0 PULSE(0 10 0 10n 10n 0.00000776 0.00001)
D2 N006 N005 MBRS340
C4 N003 N005 150n
R4 N003 N005 25k
L3 N003 N004 3µ
.model D D
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.mos
K1 L1 L2 1
.tran 0 0.05 0
.ic V(n002)=30
.backanno
.end
